US04870187
5,5-Bis(4-fluorophenyl)-4-(5-methyl-1H-tetrazol-1-yl)-2,4-pentadienal
Following the general procedure of Example 7, 3.8 g (11.6 mmoles) of 3,3-bis(4-fluorophenyl)-2-(5-methyl-1H-tetrazol-1-yl)-2-propenal in 200 mL of dry benzene was treated with 3.8 g (12.5 mmoles) of triphenylphosphoranylidene acetaldehyde to produce 3.5 g (85%) of the title compound; m.p.=72°-78° C. (foam).

reactant | 3,3-bis(4-fluorophenyl)-2-(5-methyl-1H-tetrazol-1-yl)-2-propenal | 11.6 mmoles, 3.8 g | FC1=CC=C(C=C1)C(=C(C=O)N1N=NN=C1C)C1=CC=C(C=C1)F | C17H12F2N4O
reactant | triphenylphosphoranylidene acetaldehyde | 12.5 mmoles, 3.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
reactant | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | 5,5-Bis(4-fluorophenyl)-4-(5-methyl-1H-tetrazol-1-yl)-2,4-pentadienal | 3.5 g, 85% | FC1=CC=C(C=C1)C(=C(C=CC=O)N1N=NN=C1C)C1=CC=C(C=C1)F | C19H14F2N4O
